US06303790B1
A mixture of 5.0 g (14.8 mMol) of N-benzyl-6-chloro-4-o-tolyl-nicotinamide and 25 ml morpholine was heated to 100° C. for 3.5 hours. After cooling to room temperature, extractive work-up with ethyl acetate, water and brine gave 5.7 g (100%) N-benzyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide as a yellow powder.

reactant | N-benzyl-6-chloro-4-o-tolyl-nicotinamide | 14.8 mMol, 5.0 g | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)Cl)=O | C20H17ClN2O
reactant | morpholine | 25 ml | N1CCOCC1 | C4H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | N-benzyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide | 5.7 g, 100% | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)N1CCOCC1)=O | C24H25N3O2
